US05489592
Methyl 3-(3-bromo-5-fluorophenyl)-2-propenoate
A mixture of 5.1 g (0.02 mol) of 1,3-dibromo-5- fluorobenzene (prepared according to A. Cannoni de Degiorgi and E. V. Zappi, Anales asoc. quim. argentina, 1940, 28, 72) (C. A. 34 65933), 2.2 ml (0.025 mol) of methyl acrylate, 10 ml of triethylamine, 0.044 g (0.002 mol) of palladium acetate and 0.208 g (0.0008 mol) of triphenylphosphine is heated for 24 h at 100° C. in a closed vessel with magnetic stirring. Cooling, pouring into 1N HCl, extraction with ether, washing with water, drying over Na2SO4, filtration and evaporation under vacuum are carried out. The residue is purified by chromatography on silica (eluent: 2/1 hexane/ethyl acetate). Yd.: 2.7 g (51%) M.p.=95°-6° C.

reactant | 1,3-dibromo-5- fluorobenzene | 0.02 mol, 5.1 g | BrC1=CC(=CC(=C1)F)Br | C6H3Br2F
reactant | methyl acrylate | 0.025 mol, 2.2 ml | C(C=C)(=O)OC | C4H6O2
reactant | triphenylphosphine | 0.0008 mol, 0.208 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | HCl | 1N | Cl | ClH
catalyst | palladium acetate | 0.002 mol, 0.044 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ether | CCOCC | C4H10O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | Methyl 3-(3-bromo-5-fluorophenyl)-2-propenoate | BrC=1C=C(C=C(C1)F)C=CC(=O)OC | C10H8BrFO2
